US06780858B2
To a methanol solution of 32 mg of N-(3-chloro-phenyl)-hydroxy-7-amino-N-(tetrahydro-pyran-2-yloxy)-benzofuran-2-carboxamidine was 200 mg of acidic Dowex resin. The resulted solution was stirred at reflux temperature for 1 h. The reaction mixture was filtered and concentrated under vacuum. The crude product was purified using a chromatotron and eluting with 5-10% methanol/dichloromethane to give 18 mg of 7-amino-N-(3-chloro-phenyl)-N′-hydroxy-benzofuran-2-carboxamidine in 62% yield.

reactant | N-(3-chloro-phenyl)-hydroxy-7-amino-N-(tetrahydro-pyran-2-yloxy)-benzofuran-2-carboxamidine | 32 mg | ClC=1C=C(C=CC1)N(C(=N)C=1OC2=C(C1O)C=CC=C2N)OC2OCCCC2 | C20H20ClN3O4
reactant | methanol | CO | CH4O
product | 7-amino-N-(3-chloro-phenyl)-N′-hydroxy-benzofuran-2-carboxamidine | 18 mg, 62% yield | NC1=CC=CC=2C=C(OC21)C(=NO)NC2=CC(=CC=C2)Cl | C15H12ClN3O2
